US06333336B1
b) 2,5-Dihydro-2,7-diphenylpyrazolo[4,3-c]pyridin-3-one
A mixture of ethyl 4-chloro-3-phenyl-5-pyridinecarboxylate (0.300 g, 1.15 mmol) and phenylhydrazine (0.125 ml, 1.27 mmol) in 1-butanol (25 ml) was stirred at reflux under nitrogen for 24 h. More phenylhydrazine (0.125 ml, 1.27 mmol) was added and the mixture was stirred at reflux for a further 3 days. The solvent was removed in vacuo and dichloromethane, followed by hydrogen chloride in diethyl ether, was added. The solution was filtered, and the filtrate was washed with aqueous NaHCO3 and evaporated in vacuo to give 31 mg (9%) of the title compound as a yellow solid; mp 280-285° C.; 1H NMR (250 MHz, DMSO-d6) δ7.18 (1H, t, J 7.4 Hz), 7.41-7.56 (5H, m), 7.91 (1H, s), 8.17 (2H, d, J 7.1 Hz), 8.22 (2H, d, J 7.5 Hz), 8.58 (1H, s), 12.60 (1H, br s); MS (ES+) m/z 288 [MH]+. Anal. found: C, 70.03; H, 5.00; N, 13.41. C18H12N3O.1.3H2O requires: C, 69.80; H, 4.75; N, 13.56%.

reactant | ethyl 4-chloro-3-phenyl-5-pyridinecarboxylate | 1.15 mmol, 0.300 g | ClC1=C(C=NC=C1C(=O)OCC)C1=CC=CC=C1 | C14H12ClNO2
reactant | phenylhydrazine | 1.27 mmol, 0.125 ml | C1(=CC=CC=C1)NN | C6H8N2
reactant | phenylhydrazine | 1.27 mmol, 0.125 ml | C1(=CC=CC=C1)NN | C6H8N2
solvent | 1-butanol | 25 ml | C(CCC)O | C4H10O
product | 2,5-Dihydro-2,7-diphenylpyrazolo[4,3-c]pyridin-3-one | 31 mg, 9% | C1(=CC=CC=C1)N1N=C2C(=CNC=C2C2=CC=CC=C2)C1=O | C18H13N3O
